US08957070B2
N-[2-(1-Methyl-1H-1,2,4-triazol-5-yl)-1H-indol-7-yl]thiophene-2-sulfonamide
N-(Methoxymethyl)-N-[1-(methoxymethyl)-2-(1-methyl-1H-1,2,4-triazol-5-yl)-1H-indol-7-yl]thiophene-2-sulfonamide (0.42 g), concentrated hydrochloride (1 mL) and methanol (6 mL) were heated under reflux for 6 hr. The reaction mixture was neutralized with aqueous sodium bicarbonate, and the resulting crystals were filtrated, washed with water, and dried to give the title compound (0.07 g, yield 20%) as colorless crystals. The crystals were recrystallized from ethyl acetate-hexane. melting point>271° C. (decomposition).

reactant | N-(Methoxymethyl)-N-[1-(methoxymethyl)-2-(1-methyl-1H-1,2,4-triazol-5-yl)-1H-indol-7-yl]thiophene-2-sulfonamide | 0.42 g | COCN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(N(C12)COC)C1=NC=NN1C | C19H21N5O4S2
reactant | hydrochloride | 1 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 6 mL | CO | CH4O
product | N-[2-(1-Methyl-1H-1,2,4-triazol-5-yl)-1H-indol-7-yl]thiophene-2-sulfonamide | 0.07 g, yield 20% | CN1N=CN=C1C=1NC2=C(C=CC=C2C1)NS(=O)(=O)C=1SC=CC1 | C15H13N5O2S2
